US06322775B1
1-(4′-methoxyphenyl)-4,5-pyrazolinedione;
1-(4′-methoxyphenyl)-3-methyl-4,5-pyrazolinedione; 1-(4′-methoxyphenyl) -3-(3′-methoxyphenyl)-4,5-pyrazolinedione; 1-(4′-methoxyphenyl)-3-phenyl-4,5-pyrazolinedione; 1-(4′-methoxyphenyl)-3-(4′-chlorophenyl)-4,5-pyrazolinedione; 1-(4′-methoxyphenyl)-3-(4′-methoxyphenyl)-4,5-pyrazolinedione; 1-(4′-methoxyphenyl)-3-(3′-nitrophenyl)-4,5-pyrazolinedione; 1-(4′-methoxyphenyl)-3-methoxy-4,5-pyrazolinedione; 1-(4′-methoxyphenyl)-3-ethoxy-4,5-pyrazolinedione; 1-(4′-methoxyphenyl)-3-dimethylamino-4,5-pyrazolinedione; 1-(4′-methoxyphenyl)-3-diethylamino-4,5-pyrazolinedione; 1-(4′-methoxyphenyl)-3-acetamido4,5-pyrazolinedione; 1-(4′-methoxyphenyl)-3-carboxy-4,5-pyrazolinedione; 1-(4′-methoxyphenyl)-3-methoxycarbonyl-4,5-pyrazolinedione; 1-(4′-methoxyphenyl)-3-ethoxycarbonyl-4,5-pyrazolinedione;

reactant | 1-(4′-methoxyphenyl)-3-methyl-4,5-pyrazolinedione | COC1=CC=C(C=C1)N1NC(C(C1=O)=O)C | C11H12N2O3
reactant | 1-(4′-methoxyphenyl) -3-(3′-methoxyphenyl)-4,5-pyrazolinedione | COC1=CC=C(C=C1)N1NC(C(C1=O)=O)C1=CC(=CC=C1)OC | C17H16N2O4
reactant | 1-(4′-methoxyphenyl)-3-phenyl-4,5-pyrazolinedione | COC1=CC=C(C=C1)N1NC(C(C1=O)=O)C1=CC=CC=C1 | C16H14N2O3
reactant | 1-(4′-methoxyphenyl)-3-(4′-chlorophenyl)-4,5-pyrazolinedione | COC1=CC=C(C=C1)N1NC(C(C1=O)=O)C1=CC=C(C=C1)Cl | C16H13ClN2O3
reactant | 1-(4′-methoxyphenyl)-3-(4′-methoxyphenyl)-4,5-pyrazolinedione | COC1=CC=C(C=C1)N1NC(C(C1=O)=O)C1=CC=C(C=C1)OC | C17H16N2O4
reactant | 1-(4′-methoxyphenyl)-3-(3′-nitrophenyl)-4,5-pyrazolinedione | COC1=CC=C(C=C1)N1NC(C(C1=O)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C16H13N3O5
reactant | 1-(4′-methoxyphenyl)-3-methoxy-4,5-pyrazolinedione | COC1=CC=C(C=C1)N1NC(C(C1=O)=O)OC | C11H12N2O4
reactant | 1-(4′-methoxyphenyl)-3-ethoxy-4,5-pyrazolinedione | COC1=CC=C(C=C1)N1NC(C(C1=O)=O)OCC | C12H14N2O4
reactant | 1-(4′-methoxyphenyl)-3-dimethylamino-4,5-pyrazolinedione | COC1=CC=C(C=C1)N1NC(C(C1=O)=O)N(C)C | C12H15N3O3
reactant | 1-(4′-methoxyphenyl)-3-diethylamino-4,5-pyrazolinedione | COC1=CC=C(C=C1)N1NC(C(C1=O)=O)N(CC)CC | C14H19N3O3
reactant | 1-(4′-methoxyphenyl)-3-acetamido4,5-pyrazolinedione | COC1=CC=C(C=C1)N1NC(C(C1=O)=O)NC(C)=O | C12H13N3O4
reactant | 1-(4′-methoxyphenyl)-3-carboxy-4,5-pyrazolinedione | COC1=CC=C(C=C1)N1NC(C(C1=O)=O)C(=O)O | C11H10N2O5
reactant | 1-(4′-methoxyphenyl)-3-methoxycarbonyl-4,5-pyrazolinedione | COC1=CC=C(C=C1)N1NC(C(C1=O)=O)C(=O)OC | C12H12N2O5
reactant | 1-(4′-methoxyphenyl)-3-ethoxycarbonyl-4,5-pyrazolinedione | COC1=CC=C(C=C1)N1NC(C(C1=O)=O)C(=O)OCC | C13H14N2O5
product | 1-(4′-methoxyphenyl)-4,5-pyrazolinedione | COC1=CC=C(C=C1)N1NCC(C1=O)=O | C10H10N2O3
